US07368578B2
To a solution of 3-ethoxy-4-[[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy]benzaldehyde (20.00 g) in tetrahydrofuran (250 mL)-ethanol (100 mL) was gradually added sodium borohydride (2.31 g) at 0° C. After stirring at room temperature for 1 hr, water was added to the reaction mixture and the precipitated crystals were collected by filtration to give (3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol as pale-yellow crystals (18.80 g, yield 93%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 141-142° C.

reactant | 3-ethoxy-4-[[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy]benzaldehyde | 20.00 g | C(C)OC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C=1OC=CC1 | C18H17NO5
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | sodium borohydride | 2.31 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | (3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol | 18.80 g, yield 93% | C(C)OC=1C=C(C=CC1OCC=1N=C(OC1C)C=1OC=CC1)CO | C18H19NO5
